US08048897B2
(2) Synthesis of 4-(2-Benzyloxybenzyl)benzoic Acid Methyl Ester
In a nitrogen stream, triethylsilane (2.27 mL, 13.5 mmol) and a boron trifluoride-diethyl ether complex (1.52 mL, 11.88 mmol) were added to a solution of 4-[(2-benzyloxyphenyl)-hydroxymethyl]benzoic acid methyl ester (4.15 g, 11.9 mmol) in acetonitrile (22.7 mL) at −40° C. and the mixture solution was stirred at the same temperature for 1.5 hours and further at 0° C. for 30 minutes. Water was added thereto and the mixture was extracted with methylene chloride. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:10)] to obtain the title compound (2.39 g, 62%).

reactant | triethylsilane | 13.5 mmol, 2.27 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | 4-[(2-benzyloxyphenyl)-hydroxymethyl]benzoic acid methyl ester | 11.9 mmol, 4.15 g | COC(C1=CC=C(C=C1)C(O)C1=C(C=CC=C1)OCC1=CC=CC=C1)=O | C22H20O4
reactant | Water | O | H2O
solvent | acetonitrile | 22.7 mL | C(C)#N | C2H3N
product | 4-(2-Benzyloxybenzyl)benzoic Acid Methyl Ester | 2.39 g, 62% | COC(C1=CC=C(C=C1)CC1=C(C=CC=C1)OCC1=CC=CC=C1)=O | C22H20O3
